Circuito L2 Init

.options savecurrents

R1 1 2 1.03504497262k
R2 3 2 2.01159104669k
R3 2 5 3.03557466091k
R4 5 0 4.10235086526k
R5 5 6 3.09889833746k
R6 0 7 2.00952426524k
R7 ne 8 1.04158528578k

Vaux 7 ne 0.0

Hd 5 8 Vaux 8.09359354837k

Gb 6 3 (2,5) 7.31724970280m

Vs 1 0 5.22552047598

.model linearcircuit NPN
.control

op

echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end